US04766121
To the Grignard reagent prepared from 4-bromoanisole (286 g) and magnesium turnings (38.5 g) in dry tetrahydrofuran (480 ml) was added, dropwise, with vigorous stirring, a solution of 5-hydroxy-2-methoxybenzaldehyde (100 g) in dry tetrahydrofuran (1 liter). The mixture was heated on a steam bath for 3 hours, cooled and decomposed with saturated ammonium chloride solution. The organic layer was removed and the aqueous extracted with ethyl acetate (twice). The combined organics were washed with water, dried with anhydrous magnesium sulphate and evaporated to dryness. The residue was stirred with water (4 liters), and the buff coloured solid collected and dried to give crude 1-(5-hydroxy-2-methoxyphenyl)-1-(4-methoxy- phenyl)-methanol (170 g, 99%), m.p. 62°-68°. This carbinol (85 g) was dissolved in ethanol (700 ml) and 10% palladium on charcoal (10 g) added. The mixture was hydrogenated in a Parr apparatus at 45° until hydrogen uptake ceased. The mixture was filtered, the filtrate evaporated to dryness and the residue filtered through a column containing silica gel, eluting with dichloromethane, to give 2,4'-dimethoxy-5-hydroxydiphenylmethane (46 g, 58%), m.p. 56°-58° (from petroleum spirit (60°-80°)).

reactant | 4-bromoanisole | 286 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | magnesium | 38.5 g | [Mg] | Mg
reactant | 5-hydroxy-2-methoxybenzaldehyde | 100 g | OC=1C=CC(=C(C=O)C1)OC | C8H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 480 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 1-(5-hydroxy-2-methoxyphenyl)-1-(4-methoxy- phenyl)-methanol | 170 g, 99% | OC=1C=CC(=C(C1)C(O)C1=CC=C(C=C1)OC)OC | C15H16O4
